US04639518
Ethyl-5-chloro-2,3-methylenedioxy-6-aminobenzoate
Following the procedure employed in Example 27, treatment of ethyl 5-bromo-2,3-methylenedioxy-6-aminobenzoate with N-chlorosuccinimide instead of N-bromosuccinimide, gave the title compound in 75% yield after silica gel chromatography, mp 77°-78° C.

reactant | ethyl 5-bromo-2,3-methylenedioxy-6-aminobenzoate | BrC=1C=C2C(=C(C(=O)OCC)C1N)OCO2 | C10H10BrNO4
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | Ethyl-5-chloro-2,3-methylenedioxy-6-aminobenzoate | 75% yield | C(C)OC(C1=C2C(=CC(=C1N)Cl)OCO2)=O | C10H10ClNO4
